US04517202
Dimethyl(2-cyclohexyl-2-oxoethyl)phosphonate (3.3 g) was added to a stirred suspension of sodium hydride (0.34 g) and 1,4,7,10,13,16-hexaoxacyclooctadecane (10 mg) in dry tetrahydrofuran (90 ml) in an atmosphere of argon and the mixture was stirred for 12 hours. The mixture was then cooled to 0° C. and treated dropwise with 6-acetoxy-2-formylbicyclo[3,3,0]octane (1.05 g; prepared as described in Reference Example 21 and predominantly in the 2β-configuration). The reaction mixture was allowed to warm to room temperature and then it was stirred for a further period of 24 hours. A solution of glacial acetic acid (400 mg) in diethyl ether (1 ml) was then added and the mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate (10 ml) and the resulting solution was washed with water (10 ml) and then with saturated aqueous sodium chloride solution (10 ml), dried over magnesium sulphate, and concentrated in vacuo. The resulting oil was treated with acetic anhydride (1 ml) and pyridine (4 ml) at 20° C. and left to stand for 12 hours. Concentration at 0.01 mmHg gave an oil, which was subjected to chromatography on a silica gel column, eluting with mixtures of ethyl acetate and hexane (1:6 v/v and then 1:1 v/v), to give (E)- 6-acetoxy-2-(3-cyclohexyl-3-oxoprop-1-enyl)bicyclo[3,3,0]octane (0.84 g), predominantly in the 2β-configuration.

reactant | Dimethyl(2-cyclohexyl-2-oxoethyl)phosphonate | 3.3 g | COP(OC)(=O)CC(=O)C1CCCCC1 | C10H19O4P
reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | 6-acetoxy-2-formylbicyclo[3,3,0]octane | C(C)(=O)OC1C2CCC(C2CC1)C=O | C11H16O3
reactant | acetic acid | 400 mg | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
catalyst | 1,4,7,10,13,16-hexaoxacyclooctadecane | 10 mg | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
product | (E)- 6-acetoxy-2-(3-cyclohexyl-3-oxoprop-1-enyl)bicyclo[3,3,0]octane | 0.84 g | C(C)(=O)OC1C2CCC(C2CC1)\C=C\C(=O)C1CCCCC1 | C19H28O3
